US07745475B2
3-[4-(Azetidin-1-ylcarbonyl)-2-chlorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-isopropyl-1H-pyrazol-3-yl)benzamide
Potassium carbonate (182 mg, 1.32 mmol) was added to a mixture of 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-5-hydroxy-N-(1-isopropyl-1H-pyrazol-3-yl)benzamide (350 mg, 0.81 mmol) and 1-(3-Chloro-4-fluorobenzoyl)azetidine (181 mg, 0.85 mmol) in acetonitrile (5 mL) and the stirred mixture heated at 160° C. in a ‘Smith Creator Microwave’ for 15 hours. The mixture was allowed to reach ambient temperature and pressure and reduced in vacuo. The residual oil was partitioned between ethyl acetate (50 mL) and water (50 mL). The ethyl acetate layer was separated, washed with brine, dried (MgSO4), and evaporated to a residue which was chromatographed on silica, eluting with a gradient of 50-100% ethyl acetate in isohexane, to give the desired compound (331 mg)

reactant | Potassium carbonate | 1.32 mmol, 182 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-5-hydroxy-N-(1-isopropyl-1H-pyrazol-3-yl)benzamide | 0.81 mmol, 350 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](OC=1C=C(C(=O)NC2=NN(C=C2)C(C)C)C=C(C1)O)C | C22H35N3O4Si
reactant | 1-(3-Chloro-4-fluorobenzoyl)azetidine | 0.85 mmol, 181 mg | ClC=1C=C(C(=O)N2CCC2)C=CC1F | C10H9ClFNO
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-[4-(Azetidin-1-ylcarbonyl)-2-chlorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-isopropyl-1H-pyrazol-3-yl)benzamide | 331 mg | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)NC3=NN(C=C3)C(C)C)C=C(C2)O[C@H](CO)C)C=C1)Cl | C26H29ClN4O5
